US09193689B2
To N,N-diisopropylamine (2.54 mL, 18 mmol) in anhydrous THF (15 mL), under N2 at −78° C. was added n-BuLi dropwise (2.5M in n-hexanes, 7.2 mL, 18 mmol) and the reaction mixture maintained at this temperature for 30 minutes. A solution of N,N-diethyl-2,3-dimethyl-benzamide (1.23 g, 6 mmol) in anhydrous THF (15 mL) was added dropwise to give a deep red solution. After 20 minutes at −78° C., 4-bromobenzonitrile (1.09 g, 6 mmol) in anhydrous THF (15 mL) was added dropwise and the reaction mixture allowed to stir at this temperature for 2.5 h. The reaction mixture was quenched by adding dropwise onto ice, upon which a pale yellow solid precipitated out. The solid was triturated with iso-hexane/EtOAc (2:1), filtered and dried in vacuo to afford 3-(4-bromo-phenyl)-5-methyl-2H-isoquinolin-1-one as a pale yellow solid (1.1 g, 58%).

reactant | N,N-diisopropylamine | 18 mmol, 2.54 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | N,N-diethyl-2,3-dimethyl-benzamide | 6 mmol, 1.23 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | 4-bromobenzonitrile | 6 mmol, 1.09 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-phenyl)-5-methyl-2H-isoquinolin-1-one | 1.1 g, 58% | BrC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O | C16H12BrNO
